US09376461B2
To 80 mg of Na2CO3 was added 2 mL of glacial acetic acid. The mixture was stirred at 85° C. until all the Na2CO3 reacted. 250 mg of NAD was added and the mixture was stirred at 85° C. for 15 min, cooled to below 75° C. and diluted with 20 mL of CH3CN. The precipitate was filtered, suspended in 5 mL of CH3CN, and filtered again to give crude OAADPR.

reactant | Na2CO3 | 80 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | NAD | 250 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | OAADPR | CC(=O)O[C@@H]1[C@@H]([C@H](OC1O)COP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=NC4=C3N=CN=C4N)O)O)O | C17H25N5O15P2
